US07022718B2
2-Amino-4-(2,4-dichloro-phenyl)-6-phenyl-nicotinonitrile
A mixture of 2-(2,4-dichloro-benzylidene)-malononitrile (1.125 g, 5 mmol), acetophenone (601 mg, 5 mmol), ammonium acetate (578 mg, 7.5 mmol), and toluene (5 ml) was stirred for 3 h at reflux. Upon cooling to room temperature, the mixture was taken up in ethyl acetate and extracted with satd. NaHCO3, water, and satd. NaCl, and dried over Na2SO4. The solvent was then evaporated and the title compound (600 mg, 35%), MS: m/e=339.5 (M+H+), was isolated from the residue by column chromatography (silica gel, hexanes, ethyl acetate).

reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | 5 mmol, 1.125 g | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
reactant | acetophenone | 5 mmol, 601 mg | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ammonium acetate | 7.5 mmol, 578 mg | C(C)(=O)[O-].[NH4+]
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4-(2,4-dichloro-phenyl)-6-phenyl-nicotinonitrile | 600 mg, 35% | NC1=C(C#N)C(=CC(=N1)C1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C18H11Cl2N3
